US05736587
Potassium Lysinate ("PL"):
To a 500 ml 2-neck round bottom flask, equipped with a reflux condenser and a pressure equalizing addition funnel was charged 10.00 parts (0.068 eqv.) of lysine. 101 ml of KOH (0.065 eqv.) was added to the addition funnel. The basic solution was added to the lysine, with magnetic stirring, over about 4 minutes. The reaction mixture was then stirred at about 70° C. for an additional hour, to insure complete reaction. The water was stripped off the reaction product at about 10 mm Hg and about 70° C. The yellowish wax was broken up and dried overnight at about 80° C and at about 2 mm Hg. The yellowish wax was then stored in a dry, airtight container.

reactant | lysine | 0.068 eqv. | N[C@@H](CCCCN)C(=O)O | C6H14N2O2
reactant | KOH | 101 ml, 0.065 eqv. | [OH-].[K+]
solvent | water | O | H2O
product | Potassium Lysinate | N[C@@H](CCCCN)C(=O)[O-].[K+] | InChI=1S/C6H14N2O2.K/c7-4-2-1-3-5(8)6(9)10;/h5H,1-4,7-8H2,(H,9,10);/q;+1/p-1/t5-;/m0./s1
